US04640708
Pyridinium chlorochromate (1.1 equiv) was added in small portions to a stirred solution of 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(8-hydroxy-3-methoxy-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)cyclohex-2-en-1-one (0.1 g) in dichloromethane (40 ml) at room temperature. The mixture was filtered through a small silica chromatography column with dichloromethane/ethyl acetate (5:1 v/v) elution to give 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(3-methoxy-1-methyl-8-oxo-5,6,7,8-tetrahydroisoquinolin-4-yl)cyclohex-2-en-1-one as a white solid, mp 162° C. The product was characterized by proton nuclear magnetic resonance spectroscopy and the spectroscopic data is recorded in Table 4, Example 10.

reactant | Pyridinium chlorochromate | 1.1 equiv | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(8-hydroxy-3-methoxy-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)cyclohex-2-en-1-one | 0.1 g | C(C)ON=C(CCC)C=1C(CC(CC1O)C1=C(N=C(C=2C(CCCC12)O)C)OC)=O | C23H32N2O5
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(3-methoxy-1-methyl-8-oxo-5,6,7,8-tetrahydroisoquinolin-4-yl)cyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C1=C(N=C(C=2C(CCCC12)=O)C)OC)=O | C23H30N2O5
